US04587351
Forty grams (0.2 mol) of 3,3-dimethyl-1,5-dioxaspiro<5.5>undecan-9-ol were dissolved in 400 ml of acetonitrile, and 23.5 g of sodium bicarbonate was added thereto with stirring. Next, 40.0 g of silica gel (MCB Grade 62 60-200 mesh) was added to the mixture, which was followed by the addition of 40.0 g (0.28 mol) of calcium hypochlorite (Fisher Chemical Company) portionwise over a period of 90 seconds. The reaction mixture was stirred at 23.5° C. for one hour and then heated slowly to 28.5° C., and the reaction mixture was stirred overnight. The mixture was filtered into a stirring solution of 8.0 g of sodium bicarbonate in 80 ml of water. The flask was rinsed with 200 ml of toluene and the filtrate was stirred for 90 minutes. The mixture was partially evaporated under reduced pressure and 400 ml of toluene was added thereto. The organic phase was washed with 100 ml of a saturated aqueous sodium chloride solution containing 5.0 g of sodium bicarbonate. The organic phase was dried over anhydrous sodium sulfate. The volatiles were removed under reduced pressure and the residue was held under vacuum for about 60 hours. A total of 38.56 g of 3,3-dimethyl-1,5-dioxaspiro<5.5>-undecan-9-one was obtained having a purity of 93.7% by gas chromatographic analysis (97.2% crude yield). The compound was stored in a solution of 3.55 g of sodium bicarbonate in 200 ml methylene chloride in a sealed bottle.

reactant | undecan-9-ol | CCCCCCCCC(CC)O | C11H24O
reactant | sodium bicarbonate | 23.5 g | C([O-])(O)=O.[Na+]
reactant | calcium hypochlorite | 0.28 mol, 40.0 g | Cl[O-].[Ca+2].Cl[O-]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | undecan-9-one | CCCCCCCCC(CC)=O | C11H22O
